US09447006B2
A 2 L 3-N flask was charged with 2,3,5-trimethyl-benzene-1,4-diol (Ex-1B-1) (50 g, 0.33 mol) and MEK (750 mL) to yield an amber solution. Potassium carbonate (210 g, 1.64 mol) was charged to the solution. After 30 min at RT, MeI (81.2 mL, 1.31 mol) was added to the brown suspension. The reaction mixture was heated to 65° C. for 72 h. After cooling to RT, the reaction mixture was concentrated to dryness by rotary evaporation to give a white paste. The paste was washed with EtOAc (3×300 mL). The EtOAc extracts were combined and concentrated by rotary evaporation. The resulting yellow-brown oil was chromatographed (80:20/Heptanes:EtOAc) to yield 1,4-dimethoxy-2,3,5-trimethyl-benzene (Ex-1B-2) (47.2 g, 80%). 1H NMR (400 MHz, CDCl3) δ (ppm): 6.55 (s, 1H), 3.80 (s, 3H), 3.68 (s, 3H), 2.30 (s, 3H), 2.22 (s, 3H), 2.14 (s, 3H).

reactant | 2,3,5-trimethyl-benzene-1,4-diol | 0.33 mol, 50 g | CC1=C(C=C(C(=C1C)O)C)O | C9H12O2
reactant | Potassium carbonate | 1.64 mol, 210 g | C([O-])([O-])=O.[K+].[K+]
reactant | MeI | 1.31 mol, 81.2 mL | CI | CH3I
solvent | MEK | 750 mL | CCC(=O)C | C4H8O
product | 1,4-dimethoxy-2,3,5-trimethyl-benzene | 47.2 g, 80% | COC1=C(C(=C(C(=C1)C)OC)C)C | C11H16O2
